US08735384B2
To a solution of lithium perchlorate (2.13 g, 20 mmol) in diethyl ether (4 mL) was added 1,2-epoxy-2-methylpropane (0.195 mL, 2.2 mmol), followed by 2-bromo-3-methylaniline (0.250 mL, 2 mmol) under an atmosphere of nitrogen gas. The reaction mixture was stirred overnight at RT. Water was added dropwise, and the product was extracted from the reaction mixture with DCM. The organic phase was dried over MgSO4. The solvent was removed under reduced pressure and the remaining residue was purified by flash chromatography (10-40% hexanes/EtOAc). 1-(2-bromo-3-methylphenylamino)-2-methylpropan-2-ol was obtained as a clear colorless oil.

reactant | lithium perchlorate | 20 mmol, 2.13 g | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | 1,2-epoxy-2-methylpropane | 2.2 mmol, 0.195 mL | O1CC1(C)C | C4H8O
reactant | 2-bromo-3-methylaniline | 2 mmol, 0.250 mL | BrC1=C(N)C=CC=C1C | C7H8BrN
reactant | Water | O | H2O
solvent | diethyl ether | 4 mL | C(C)OCC | C4H10O
product | 1-(2-bromo-3-methylphenylamino)-2-methylpropan-2-ol | BrC1=C(C=CC=C1C)NCC(C)(O)C | C11H16BrNO
